US08183397B2
6. Step: Preparation of the Standard, (4R,6S)-6-(dimethoxymethyl)-tetrahydro-2H-pyran-2,4-diol (I″)
To a solution of 0.47 g of (4R,6S)-4-(tert-butyldimethylsilyloxy)-6-(dimethoxymethyl)-tetrahydro-2H-pyran-2-ol (I′) in 14 mL of tetrahydrofurane, tetra-n-butylammonium fluoride in 14 mL of THF is added. After 15 minutes of stirring at 25° C., the THF is distilled off. The residue is flash chromatographed (methanol). After methanol is distilled off, the title compound is obtained as an oil.

reactant | (4R,6S)-4-(tert-butyldimethylsilyloxy)-6-(dimethoxymethyl)-tetrahydro-2H-pyran-2-ol | 0.47 g | [Si](C)(C)(C(C)(C)C)O[C@H]1CC(O[C@@H](C1)C(OC)OC)O | C14H30O5Si
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofurane | 14 mL | O1CCCC1 | C4H8O
solvent | THF | 14 mL | C1CCOC1 | C4H8O
product | (4R,6S)-6-(dimethoxymethyl)-tetrahydro-2H-pyran-2,4-diol | COC([C@@H]1C[C@H](CC(O1)O)O)OC | C8H16O5
